US07825128B2
(RS)—N-(ethylcarbamoyl)-S-(4-{[4-{[(R)-2-hydroxy-1-methylethyl]amino}-5-(2-thienyl)pyrimidine-2-yl]amino}phenyl)-S-methylsulfoximide
In the reaction of (R)-2-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)propan-1-ol (296.3 mg, 1.1 mmol) with (RS)—S-(4-aminophenyl)-N-(ethylcarbamoyl)-S-methylsulphoximide (241 mg, 1 mmol) according to procedure 5c, the desired product is obtained in 26% yield (133 mg) after chromatographic purification (silica gel, dichloromethane/ethanol (0%-20% ethanol)).

reactant | (R)-2-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)propan-1-ol | 1.1 mmol, 296.3 mg | ClC1=NC=C(C(=N1)N[C@@H](CO)C)C=1SC=CC1 | C11H12ClN3OS
reactant | (RS)—S-(4-aminophenyl)-N-(ethylcarbamoyl)-S-methylsulphoximide | 1 mmol, 241 mg | NC1=CC=C(C=C1)S(=O)(=NC(NCC)=O)C | C10H15N3O2S
product | (RS)—N-(ethylcarbamoyl)-S-(4-{[4-{[(R)-2-hydroxy-1-methylethyl]amino}-5-(2-thienyl)pyrimidine-2-yl]amino}phenyl)-S-methylsulfoximide | 26% yield | C(C)NC(=O)N=S(=O)(C)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N[C@@H](CO)C)C=1SC=CC1 | C21H26N6O3S2
